US05405815
In this experiment an isoprene-butadiene rubber was synthesized by the technique of this invention. In the procedure employed a one gallon (3.78 liter) reactor was charged with 1000 grams of a dry hexane solution containing 81.9 grams of 1,3-butadiene followed by 663 grams of 1.2 molar diisobutylaluminum hydride (DIBAH) in hexane (25 weight percent DIBAH). Then, a solution containing 21.5 grams of triphenylsilanol dissolved in 260 grams of toluene was charged into the reactor at a temperature of 18° C. and the contents of the reactor. After stirring for 40 minutes, a solution of 105.4 grams of 10.3% neodymium solution (as neodymium neodecanoate), diluted with 165 grams of dry hexane, was charged into the reactor. The solution was allowed to stir for one hour after which 19.1 grams of allylbromide was added. The cooling was stopped and the solution allowed to warm up to ambient temperatures. After stirring for about 90 minutes, the catalyst solution was heat aged at 65° C. for 1-2 hours. The aged catalyst solution was then cooled and stored in a dry container under nitrogen.

reactant | 1,3-butadiene | 81.9 grams | C=CC=C | C4H6
reactant | diisobutylaluminum hydride | 1.2 molar, 663 grams | [H-].C(C(C)C)[Al+]CC(C)C
reactant | triphenylsilanol | 21.5 grams | C1(=CC=CC=C1)[Si](O)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H16OSi
reactant | neodymium | 105.4 grams | [Nd] | Nd
reactant | allylbromide | 19.1 grams | C(C=C)Br | C3H5Br
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 260 grams | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 165 grams | CCCCCC | C6H14
solvent | hexane | 1000 grams | CCCCCC | C6H14
product | isoprene butadiene | C=CC(C)=C.C=CC=C | InChI=1S/C5H8.C4H6/c1-4-5(2)3;1-3-4-2/h4H,1-2H2,3H3;3-4H,1-2H2
